US08008298B2
A microwave tube was charged with 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (146 mg, 0.52 mmol), 3-ethoxybenzeneboronic acid (94 mg, 0.57 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) (34 mg, 0.041 mmol), and K2CO3 (179 mg, 1.30 mmol). Dioxane (4 ml) and water (1 ml) were added, and the tube was microwaved at 150° C. for 30 min. The reaction mixture was partitioned between EtOAc/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a dark brown solid. The crude product was purified by preparative thin layer chromatography (70% EtOAc/Hexane) as eluant to provide 120 mg (72%) of 1-[2-(3-ethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow solid. MP 195-196° C., M+H=324.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.52 mmol, 146 mg | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-ethoxybenzeneboronic acid | 0.57 mmol, 94 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
reactant | K2CO3 | 1.30 mmol, 179 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Dioxane | 4 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloro-palladium(II) | 0.041 mmol, 34 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 ml | O | H2O
product | 1-[2-(3-ethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 120 mg, 72% | C(C)OC=1C=C(C=CC1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C19H21N3O2
